US06245918B1
Preparation of the Salt of 1-methyl-3-ethylimidazolium Tetrafluoroborate
22.3 ml of N-methylimidazole and 120 ml of 1,2-dichloroethane were introduced into a 250 ml glass flask under an argon atmosphere. 53.2 g of triethyloxonium tetrafluoroborate was added in small portions. The reaction medium was observed to heat up slightly and the solvent was then refluxed for 1 hour 30 minutes. The molten salt formed was colorless, non miscible and denser than the 1,2-dichloroethane. It was separated by simple decanting and drawn under vacuum using a vane pump.

reactant | N-methylimidazole | 22.3 ml | CN1C=NC=C1 | C4H6N2
reactant | triethyloxonium tetrafluoroborate | 53.2 g | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 120 ml | ClCCCl | C2H4Cl2
product | 1-methyl-3-ethylimidazolium Tetrafluoroborate | F[B-](F)(F)F.C[N+]1=CN(C=C1)CC | InChI=1S/C6H11N2.BF4/c1-3-8-5-4-7(2)6-8;2-1(3,4)5/h4-6H,3H2,1-2H3;/q+1;-1
